US06413964B1
Step J: Preparation of N-[1-(4-Cyano-3-fluorophenyl)-4-oxo-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide
Sulfur trioxide pyridine complex (0.775 g, 4.866 mmol) in DMSO (5 mL) was added to a solution of (N-[1-(4-cyano-3-fluorophenyl)-4-hydroxy-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide (0.382 g, 0.973 mmol) and Et3N (1.36 mL, 0.985 mmol) in CH2Cl2 (15 mL) at 0° C. in an ice-H2O bath, then left to come to room temperature overnight. The reaction mixture was partitioned between CH2Cl2 and aqueous saturated NaHCO3 solution, the aqueous layer washed with CH2Cl2 (3×), the organic layers combined and dried (MgSO4), filtered and concentrated to give the crude product. Purification on an ISCO Combiflash eluting with 2-6% MeOH/CH2Cl2 gave the title compound. MS(M+1) 391.

reactant | N-[1-(4-cyano-3-fluorophenyl)-4-hydroxy-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide | 0.973 mmol, 0.382 g | C(#N)C1=C(C=C(C=C1)C(CCCO)(C1=CN=CN1C)NS(=O)C(C)(C)C)F | C19H25FN4O2S
reactant | Et3N | 0.985 mmol, 1.36 mL | CCN(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(4-Cyano-3-fluorophenyl)-4-oxo-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide | C(#N)C1=C(C=C(C=C1)C(CCC=O)(C1=CN=CN1C)NS(=O)C(C)(C)C)F | C19H23FN4O2S
